US06169163A
2,7-Dibromo-9,9-bis(4-phenoxyphenyl)fluorene (M-10)
To a stirred mixture of 2,7-dibromofluorenone (26 g, 77 mmoles) and phenyl ether (170 g, 1 mole) is added 60 mL of methanesulfonic acid and 0.5 mL of 3-mercaptopropionic acid. The mixture is heated and stirred at 60° C. for 30 minutes, and then at 25° C. for 16 hours. The mixture is again stirred at 60° C. for 30 minutes and then at 25° C. for 3 hours. The mixture is poured into 1.4 L of ice water and 200 mL of methanol and allowed to stand in the hood for 4 days. The semi-solid precipitate is separated by decanting the supernatant liquid and then digesting with 1:1 v/v acetonitrile-hexane. The title compound is obtained as a colorless powder (32 g, 64 percent), melting point 178° C. to 180° C. HPLC analysis shows a purity of greater than 99 percent and the PMR spectrum (DMSO-d6) is consistent with the structure.

reactant | 2,7-dibromofluorenone | 77 mmoles, 26 g | BrC=1C(C2=CC3=CC(=CC=C3C2=CC1)Br)=O | C13H6Br2O
reactant | phenyl ether | 1 mole, 170 g | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
reactant | methanesulfonic acid | 60 mL | CS(=O)(=O)O | CH4O3S
reactant | 3-mercaptopropionic acid | 0.5 mL | SCCC(=O)O | C3H6O2S
solvent | methanol | 200 mL | CO | CH4O
product | 2,7-Dibromo-9,9-bis(4-phenoxyphenyl)fluorene | BrC1=CC=2C(C3=CC(=CC=C3C2C=C1)Br)(C1=CC=C(C=C1)OC1=CC=CC=C1)C1=CC=C(C=C1)OC1=CC=CC=C1 | C37H24Br2O2
